US08980913B2
Step 1: (R)-Quinuclidin-3-yl((S)-(3-((1-(4-((1,3-dioxolan-2-yl)methyl)benzoyl)piperidin-4-yl)methoxy)phenyl)(phenyl)methyl)carbamate
The title compound was prepared as described in Example 1 Step 11 with (R)-quinuclidin-3-yl((S)-phenyl(3-(piperidin-4-ylmethoxy)phenyl)methyl)carbamate and 4-(1,3-dioxolan-2-ylmethyl)benzoic acid replacing 3-(1,3-dioxolan-2-yl)propyl piperidine-4-carboxylate hydrochloride and 4-((3-((S)-phenyl((((R)-quinuclidin-3-yloxy)carbonyl)amino)methyl)phenoxy)methyl)benzoic acid respectively.

reactant | (R)-quinuclidin-3-yl((S)-phenyl(3-(piperidin-4-ylmethoxy)phenyl)methyl)carbamate | N12C[C@@H](C(CC1)CC2)OC(N[C@H](C2=CC(=CC=C2)OCC2CCNCC2)C2=CC=CC=C2)=O | C27H35N3O3
reactant | 4-(1,3-dioxolan-2-ylmethyl)benzoic acid | O1C(OCC1)CC1=CC=C(C(=O)O)C=C1 | C11H12O4
reactant | 4-((3-((S)-phenyl((((R)-quinuclidin-3-yloxy)carbonyl)amino)methyl)phenoxy)methyl)benzoic acid | C1(=CC=CC=C1)[C@@H](C=1C=C(OCC2=CC=C(C(=O)O)C=C2)C=CC1)NC(=O)O[C@H]1CN2CCC1CC2 | C29H30N2O5
product | (R)-Quinuclidin-3-yl((S)-(3-((1-(4-((1,3-dioxolan-2-yl)methyl)benzoyl)piperidin-4-yl)methoxy)phenyl)(phenyl)methyl)carbamate | N12C[C@@H](C(CC1)CC2)OC(N[C@@H](C2=CC=CC=C2)C2=CC(=CC=C2)OCC2CCN(CC2)C(C2=CC=C(C=C2)CC2OCCO2)=O)=O | C38H45N3O6
